US04316985
0.30 g of 10% palladium-on-carbon catalyst was added to a solution of 4.0 g (0.018 mol) of methyl rac-1,2,3,4,5,8-hexahydro-5,8-dioxonaphthalene-2-carboxylate in 180 ml of methanol and the mixture was shaken under one atmosphere of hydrogen until hydrogen uptake ceased (429 ml, 18 minutes). The mixture was filtered and the filtrate was evaporated to yield 4.1 g (100%) of methyl rac-5,8-dihydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylate in the form of a white crystalline solid of melting point 135°-136° C.

reactant | methyl rac-1,2,3,4,5,8-hexahydro-5,8-dioxonaphthalene-2-carboxylate | 0.018 mol, 4.0 g | O=C1C=2CCC(CC2C(C=C1)=O)C(=O)OC | C12H12O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.30 g | [Pd] | Pd
solvent | methanol | 180 ml | CO | CH4O
product | methyl rac-5,8-dihydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 4.1 g, 100% | OC1=C2CCC(CC2=C(C=C1)O)C(=O)OC | C12H14O4
